US07456218B2
2,6-dimethyl-3′-[(tetrahydro-2H-pyran-2-yloxy)methyl]biphenyl-4-ol
2′,6′-Dimethyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-carbaldehyde (9.05 g, 29.2 mmol) was dissolved in a mixture of 1,2-dimethoxyethane (50 mL) and tetrahydrofuran (50 mL), and sodium borohydride (0.567 g, 15.0 mmol) was added under ice-cooling. The mixture was stirred at the same temperature for 3 hrs. 10% Aqueous citric acid solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (15%-50% ethyl acetate/hexane) to give the title compound (3.24 g, yield 36%) as colorless crystals.

reactant | 2′,6′-Dimethyl-4′-(tetrahydro-2H-pyran-2-yloxy)biphenyl-3-carbaldehyde | 29.2 mmol, 9.05 g | CC1=C(C(=CC(=C1)OC1OCCCC1)C)C1=CC(=CC=C1)C=O | C20H22O3
reactant | sodium borohydride | 15.0 mmol, 0.567 g | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2,6-dimethyl-3′-[(tetrahydro-2H-pyran-2-yloxy)methyl]biphenyl-4-ol | 3.24 g, yield 36% | CC1=C(C(=CC(=C1)O)C)C1=CC(=CC=C1)COC1OCCCC1 | C20H24O3
